US07732460B2
(b) (4R/S)-4-[(4-amino-1-piperidinyl)methyl]-3,4-difluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one dihydrochloride
A solution of 1,1-dimethylethyl {1-[((4R/S)-3,4-difluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate (98 mg, 0.23 mmol) in dichloromethane (2 ml) and methanol (1.5 ml), was treated with hydrochloric acid in 1,4-dioxane (4M, 3.5 ml, 14 mmol). After 1.5 hours the mixture was evaporated affording the product (82 mg).

reactant | 1,1-dimethylethyl {1-[((4R/S)-3,4-difluoro-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl]-4-piperidinyl}carbamate | 0.23 mmol, 98 mg | FC=1C=NC=2C=CC(N3C2C1C(C3)(F)CN3CCC(CC3)NC(OC(C)(C)C)=O)=O | C21H26F2N4O3
reactant | hydrochloric acid | Cl | ClH
reactant | 1,4-dioxane | 14 mmol, 4M, 3.5 ml | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 1.5 ml | CO | CH4O
product | (4R/S)-4-[(4-amino-1-piperidinyl)methyl]-3,4-difluoro-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-7-one dihydrochloride | 82 mg | Cl.Cl.NC1CCN(CC1)CC1(CN2C=3C1=C(C=NC3C=CC2=O)F)F | InChI=1S/C16H18F2N4O.2ClH/c17-11-7-20-12-1-2-13(23)22-9-16(18,14(11)15(12)22)8-21-5-3-10(19)4-6-21;;/h1-2,7,10H,3-6,8-9,19H2;2*1H
